US07459448B2
2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carbonitrile (I-92)
To a solution of 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-30) (100 mg, 0.210 mmol) in 4 mL anhydrous DMF at room temperature was added zinc cyanide (14 mg, 0.120 mmol), tris(dibenzylideneacetone)dipalladium (9.5 mg, 0.01 mmol), 1,1′-bis(diphenyl-phosphino)ferrocene (14.0 mg, 0.02 mmol) and a drop of H2O. The solution was degassed with argon then stirred at 1° C. for 16 h. The solution was allowed to cool to 22° C., then diluted with EtOAc and saturated aqueous sodium bicarbonate. The organic layer was then washed with H2O and brine, dried over Na2SO4, and concentrated in vacuo. The product was recrystallized in methanol and CH2Cl2 to give I-92 (92%): MS Rt═2.49 min, m/z═388 (M+H).

reactant | 2-(3,4-dimethoxy-phenylamino)-9-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | 0.210 mmol, 100 mg | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)I)N1 | C20H17IN4O3
reactant | H2O | O | H2O
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.120 mmol, 14 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium | 0.01 mmol, 9.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenyl-phosphino)ferrocene | 0.02 mmol, 14.0 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carbonitrile | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)C#N)N1 | C21H17N5O3
